US08937092B2
tert-Butyl N-(4-aminobenzyl)sulfamoylcarbamate (86 mg, 0.285 mmol) was dissolved in a tetrahydrofuran/acetonitrile (1:1 mixture). Pyridine (0.03 mL, 0.342 mmol) was added, followed by addition of phenylchloroformate (0.04 mL, 0.3 mmol) at 0° C. The mixture was stirred at 0° C. for 30 min and further 30 min at room temperature. The reaction mixture was extracted with ethyl acetate and washed with brine. Drying over magnesium sulfate, evaporation of the ethyl acetate and purification by column chromatography gave the N-[4-[[(tert-butoxycarbonyl-sulfamoyl)amino]methyl]-phenyl]-carbamic acid phenyl ester (59 mg, 49%).

reactant | tert-Butyl N-(4-aminobenzyl)sulfamoylcarbamate | 0.285 mmol, 86 mg | NC1=CC=C(CNS(=O)(=O)NC(OC(C)(C)C)=O)C=C1 | C12H19N3O4S
reactant | Pyridine | 0.342 mmol, 0.03 mL | N1=CC=CC=C1 | C5H5N
reactant | phenylchloroformate | 0.3 mmol, 0.04 mL | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | tetrahydrofuran acetonitrile | O1CCCC1.C(C)#N
product | N-[4-[[(tert-butoxycarbonyl-sulfamoyl)amino]methyl]-phenyl]-carbamic acid phenyl ester | 59 mg, 49% | C1(=CC=CC=C1)OC(NC1=CC=C(C=C1)CNS(NC(=O)OC(C)(C)C)(=O)=O)=O | C19H23N3O6S
